### PR TITLE
[Merged by Bors] - chore: port `fin.reflect`

### PR DESCRIPTION
**Pull request by eric-wieser**
This definition was deleted during porting.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -2543,4 +2544,15 @@ protected theorem zero_mul [NeZero n] (k : Fin n) : (0 : Fin n) * k = 0 := by
...
+open Qq in
+unsafe instance toExpr (n : ℕ) : Lean.ToExpr (Fin n) where
+  toTypeExpr := q(Fin $n)
+  toExpr := match n with
+    | 0 => finZeroElim
+    | n'@(n + 1) => fun i =>
+      let i' : Q(ℕ) := Lean.ToExpr.toExpr (i : ℕ)
+      let _n_eq : ($n + 1) =Q $n' := ⟨⟩
+      q((haveI : NeZero $n' := @NeZero.succ $n; OfNat.ofNat $i' : Fin $(n')))
+#align fin.reflect Fin.toExprₓ
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2556]: @gebner, how can I use `_n_eq` here to avoid `q()` complaining that my types don't match?

Comment (gebner) [reply Mathlib/Data/Fin/Basic.lean]: I have tried my hand at refactoring this instance.

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -2543,4 +2544,15 @@ protected theorem zero_mul [NeZero n] (k : Fin n) : (0 : Fin n) * k = 0 := by
...
 
+open Qq in
+instance toExpr (n : ℕ) : Lean.ToExpr (Fin n) where
+  toTypeExpr := q(Fin $n)
+  toExpr := match n with
+    | 0 => finZeroElim
+    | k + 1 => fun i => show Q(Fin $n) from
+      have i : Q(Nat) := Lean.mkNatLit i -- raw literal to avoid ofNat-double-wrapping
+      have : Q(NeZero $n) := have : $n =Q $k + 1 := ⟨⟩; by exact q(NeZero.succ)
+      q(OfNat.ofNat $i)
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2555]: Don't you need the `Fin $(k+1)` annotation here? How does q know which OfNat instance to use otherwise?

Comment (gebner) [reply Mathlib/Data/Fin/Basic.lean:2555]: There's a `Q(Fin $n)` annotation above.

Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:2555]: Ah, I missed that!

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -2543,4 +2544,15 @@ protected theorem zero_mul [NeZero n] (k : Fin n) : (0 : Fin n) * k = 0 := by
...
 end Mul
 
+open Qq in
+instance toExpr (n : ℕ) : Lean.ToExpr (Fin n) where
+  toTypeExpr := q(Fin $n)
+  toExpr := match n with
+    | 0 => finZeroElim
+    | k + 1 => fun i => show Q(Fin $n) from
+      have i : Q(Nat) := Lean.mkNatLit i -- raw literal to avoid ofNat-double-wrapping
+      have : Q(NeZero $n) := have : $n =Q $k + 1 := ⟨⟩; by exact q(NeZero.succ)
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean]: Resolved with `haveI` I think

**Comment by eric-wieser** [comment]
Your refactor LGTM, feel free to merge
